US08877779B2
(R)-1-[1-(Acenaphthen-1-yl)piperidin-4-yl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (1 g) was dissolved in DMF (30 ml). Sodium hydride (120 mg, 60%) was added, and the suspension was stirred at room temperature for 20 min. Ethyl bromoacetate (500 mg) was added, and the mixture was stirred for 2 hr. The reaction mixture was poured into ice water, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated aqueous ammonium chloride solution, dried over magnesium sulfate, and concentration to give ethyl (R)-2-{1-[1-(acenaphthen-1-yl)piperidin-4-yl]-1,2-dihydro-2-oxo-imidazo[4,5-b]pyridin-3-yl}acetate. 40% Methylamine-methanol solution (20 ml) was added, the mixture was stirred at room temperature for 2 hr, and the reaction mixture was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform/methanol) to give the title compound (0.86 g) as a white powder.

reactant | (R)-1-[1-(Acenaphthen-1-yl)piperidin-4-yl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 1 g | [C@H]1(CC2=CC=CC3=CC=CC1=C23)N2CCC(CC2)N2C(NC3=NC=CC=C32)=O | C23H22N4O
reactant | Sodium hydride | 120 mg | [H-].[Na+]
reactant | Ethyl bromoacetate | 500 mg | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | ethyl (R)-2-{1-[1-(acenaphthen-1-yl)piperidin-4-yl]-1,2-dihydro-2-oxo-imidazo[4,5-b]pyridin-3-yl}acetate | [C@H]1(CC2=CC=CC3=CC=CC1=C23)N2CCC(CC2)N2C(N(C3=NC=CC=C32)CC(=O)OCC)=O | C27H28N4O3
